US06518257B1
(i) Production of N-(3-bromo-4-methoxyphenyl)acetamide
By the reaction in the same manner as in Example 33-(i) using 2-bromo-4-nitroanisole (5.41 g), iron powder (6.49 g) and acetic anhydride (4.4 ml), the title compound (4.87 g) was obtained as a colorless powder crystals.

reactant | 2-bromo-4-nitroanisole | 5.41 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | acetic anhydride | 4.4 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | iron | 6.49 g | [Fe] | Fe
product | N-(3-bromo-4-methoxyphenyl)acetamide | 4.87 g | BrC=1C=C(C=CC1OC)NC(C)=O | C9H10BrNO2
